US06350749B1
A mixture of 5-(2-methylphenyl)cyclohexane-1,3-dione (2.0 g), 1-bromo-3,3,3-trifluoroacetone (1.9 g), potassium carbonate (2.7 g) and dimethylformamide (30 ml) was stirred at room temperature for 2 hours, and then at 150° C. for 12 hours. Under reduced pressure, the solvent was evaporated, and to the residue was added ethyl acetate. The mixture was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane). The resulting crystals were recrystallized from isopropylether and hexane to give colorless crystals of 3-trifluoromethyl-6-(2-methylphenyl)-4,5,6,7-tetrahydrobenzofuran-4-one (0.26 g).

reactant | 5-(2-methylphenyl)cyclohexane-1,3-dione | 2.0 g | CC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C13H14O2
reactant | 1-bromo-3,3,3-trifluoroacetone | 1.9 g | BrCC(=O)C(F)(F)F | C3H2BrF3O
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-trifluoromethyl-6-(2-methylphenyl)-4,5,6,7-tetrahydrobenzofuran-4-one | 0.26 g | FC(C1=COC2=C1C(CC(C2)C2=C(C=CC=C2)C)=O)(F)F | C16H13F3O2
